US05922717
(b) trans-4-[[-4-[1-(tert-Butyloxycarbonyl)-piperidin-4-yl]-piperazin-1-yl]-carbonyl]-cyclohexanecarboxylic acid
Prepared from ethyl trans-4-[[-4-[1-(tert-butyloxycarbonyl)-piperidin-4-yl]-piperazin-1-yl]-carbonyl]-cyclohexane-carboxylate by hydrolysis with lithium hydroxide analogously to Example 24. Mass spectrum: (M+H)+ =424; Rf value: 0.24 (silica gel; methylene chloride/methanol/concentrated ammonia=4:1:0.2)

reactant | ethyl trans-4-[[-4-[1-(tert-butyloxycarbonyl)-piperidin-4-yl]-piperazin-1-yl]-carbonyl]-cyclohexane-carboxylate | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)C(=O)OCC | C24H41N3O5
reactant | lithium hydroxide | [OH-].[Li+]
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | trans-4-[[-4-[1-(tert-Butyloxycarbonyl)-piperidin-4-yl]-piperazin-1-yl]-carbonyl]-cyclohexanecarboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)C(=O)O | C22H37N3O5
